US07423031B2
To a solution of (7-fluoro-1-oxo-1,2,3,10-tetrahydro-azepino[3,4-b]indol-5-yl)-acetic acid, prepared as in reference 16, (25 mg, 0.091 mmol) in DMF (1 mL) is added DIEA (35.4 mg, 0.274 mmol), HATU (38.2 mg, 0.100 mmol) and 6-chloro-pyridin-3-ylamine (35.2 mg, 0.274 mmol). The mixture is stirred at room temperature for 2 hours and concentrated. The residue is purified by HPLC (C18 column, eluted with CH3CN/H2O with 0.05% TFA) to give N-(6-Chloro-pyridin-3-yl)-2-(7-fluoro-1-oxo-1,2,3,10-tetrahydro-azepino[3,4-b]indol-5-yl)-acetamide; 1H NMR (DMSO-d6) δ 3.43 (t, 2H, J=5.6 Hz), 3.84 (s, 2H), 5.96 (t, 1H, J=7.2 Hz), 7.12 (dt, 1H, J1=2.4 Hz, J2=8.8 Hz), 7.43 (d, 1H, J=8.8 Hz), 7.46 (dd, 1H, J1=4.4 Hz, J2=8.8 Hz), 7.67 (dd, 1H, J1=2.4 Hz, J2=10.8 Hz), 8.01 (dd, 1H, J1=2.8 Hz, J2=8.0 Hz), 8.19 (t, 1H, J=5.2 Hz), 8.54 (d, 1H, J=3.2 Hz), 10.48 (s, 1H), 12.04 (s, 1H); m/z [M++1] 385.0.

reactant | (7-fluoro-1-oxo-1,2,3,10-tetrahydro-azepino[3,4-b]indol-5-yl)-acetic acid | FC=1C=C2C3=C(NC2=CC1)C(NCC=C3CC(=O)O)=O | C14H11FN2O3
reactant | DIEA | 0.274 mmol, 35.4 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.100 mmol, 38.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-chloro-pyridin-3-ylamine | 0.274 mmol, 35.2 mg | ClC1=CC=C(C=N1)N | C5H5ClN2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(6-Chloro-pyridin-3-yl)-2-(7-fluoro-1-oxo-1,2,3,10-tetrahydro-azepino[3,4-b]indol-5-yl)-acetamide | ClC1=CC=C(C=N1)NC(CC1=CCNC(C=2NC3=CC=C(C=C3C21)F)=O)=O | C19H14ClFN4O2
